US08871738B2
To 5-bromo-N-methoxy-N-methyl-2-(trifluoromethyl)pyridine-4-carboxamide (21 g, 67.1 mmol) in THF (200 mL) was added DIBAL-H in toluene (1M, 73.8 mL, 73.8 mmol) through a syringe at −78° C. The reaction was stirred for 40 minutes while it was warmed to −10° C. The reaction was diluted with EtOAc (100 mL) and was quenched with 1N HCl solution (150 mL). The reaction mixture was filtered on a Celite and silica gel bed. The layers were separated and the organic layer was partitioned with saturated. NaHCO3 and then brine. The organic layer was dried over Na2SO4, filtered and concentrated in vacuo. The crude reaction was purified by column chromatography to yield 5-bromo-2-(trifluoromethyl)pyridine-4-carbaldehyde (13.1 g, 51.6 mmol). 1H NMR (500 MHz, CDCl3) δ10.2 (s, 1H), 9.04 (s, 1H), 8.84 (s, 1H).

reactant | 5-bromo-N-methoxy-N-methyl-2-(trifluoromethyl)pyridine-4-carboxamide | 67.1 mmol, 21 g | BrC=1C(=CC(=NC1)C(F)(F)F)C(=O)N(C)OC | C9H8BrF3N2O2
reactant | DIBAL-H | CC(C)C[AlH]CC(C)C
reactant | toluene | 73.8 mmol, 1M, 73.8 mL | C1(=CC=CC=C1)C | C7H8
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 5-bromo-2-(trifluoromethyl)pyridine-4-carbaldehyde | 51.6 mmol, 13.1 g | BrC=1C(=CC(=NC1)C(F)(F)F)C=O | C7H3BrF3NO
